*      COPYRIGHT     Zetex Spice Model Library 2V0
*                      (Last Revision Sept./95)
*
*
*
*ZETEX  2N7000  Spice Mosfet Subcircuit   Last revision 11/91
*
.SUBCKT 2N7000 3 4 5
* Nodes        D G S
M1 3 2 5 5 MOD1
RG 4 2 343
RL 3 5 6E6
D1 5 3 DIODE1
.MODEL MOD1 NMOS VTO=2.474 RS=1.68 RD=0.0 IS=1E-15 KP=0.296
+CGSO=23.5P CGDO=4.5P CBD=53.5P PB=1 LAMBDA=267E-6
.MODEL DIODE1 D IS=1.254E-13 N=1.0207 RS=0.222
.ENDS 2N7000
*
*ZETEX  2N7002  Spice Mosfet Subcircuit   Last revision 11/91
*
.SUBCKT 2N7002 3 4 5
* Nodes        D G S
M1 3 2 5 5 MOD1
RG 4 2 343
RL 3 5 6E6
D1 5 3 DIODE1
.MODEL MOD1 NMOS VTO=2.474 RS=1.68 RD=0.0 IS=1E-15 KP=0.296
+CGSO=23.5P CGDO=4.5P CBD=53.5P PB=1 LAMBDA=267E-6
.MODEL DIODE1 D IS=1.254E-13 N=1.0207 RS=0.222
.ENDS 2N7002
*
*ZETEX  BS170 Mosfet Spice Subcircuit   Last revision  12/85
*
.SUBCKT BS170 3 4 5
*             D G S
M1 3 2 5 5 N3306M
RG 4 2 270
RL 3 5 1.2E8
D1 5 3 N3306D
.MODEL N3306M NMOS VTO=1.824 RS=1.572 RD=1.436 IS=1E-15 KP=.1233
+CGSO=28E-12 CGDO=3E-12 CBD=35E-12 PB=1
.MODEL N3306D D IS=5E-12 RS=.768
.ENDS BS170
*
*ZETEX  VN10LF Mosfet Spice Subcircuit   Last revision  12/85
*
.SUBCKT VN10LF 3 4 5
*              D G S
M1 3 2 5 5 N3306M
RG 4 2 270
RL 3 5 1.2E8
D1 5 3 N3306D
.MODEL N3306M NMOS VTO=1.824 RS=1.572 RD=1.436 IS=1E-15 KP=.1233
+CGSO=28E-12 CGDO=3E-12 CBD=35E-12 PB=1
.MODEL N3306D D IS=5E-12 RS=.768
.ENDS VN10LF
*
*ZETEX  ZVN0124 Mosfet Spice Subcircuit      Last revision 6/91
*
.SUBCKT ZVN0124 3 4 5
*               D G S
M1 3 2 5 5 MN0124
RG 4 2 225
RL 3 5 2.4E7
D1 5 3 DN0124
*
.MODEL MN0124 NMOS VTO=1.5512 RS=1.436 RD=9.254 IS=1E-15 KP=1.077
+CGSO=60E-12 CGDO=2E-12 CBD=36E-12 PB=1 LAMBDA=0
*
.MODEL DN0124 D IS=3.071E-12 N=1.026 RS=0.511
.ENDS ZVN0124
*
*ZETEX   ZVN2106 Mosfet Spice Subcircuit        Last revision  3/86
*
.SUBCKT ZVN2106 3 4 5
*               D G S
M1 3 2 5 5 MN2106
RG 4 2 120
RL 3 5 1.2E8
D1 5 3 DN2106
*
.MODEL MN2106 NMOS VTO=1.512 RS=0.772 RD=0.449 IS=1E-15 KP=0.653
+CGSO=45E-12 CGDO=15E-12 CBD=63E-12 PB=1 LAMBDA=1.95E-3
*
.MODEL DN2106 D IS=2.25E-12 RS=0.404
.ENDS ZVN2106
*
*ZETEX   ZVN2106G Mosfet Spice Subcircuit        Last revision  3/86
*
.SUBCKT ZVN2106G 3 4 5
*                D G S
M1 3 2 5 5 MN2106
RG 4 2 120
RL 3 5 1.2E8
D1 5 3 DN2106
*
.MODEL MN2106 NMOS VTO=1.512 RS=0.772 RD=0.449 IS=1E-15 KP=0.653
+CGSO=45E-12 CGDO=15E-12 CBD=63E-12 PB=1 LAMBDA=1.95E-E
*
.MODEL DN2106 D IS=2.25E-12 RS=0.404
.ENDS ZVN2106G
*
*ZETEX  ZVN3306 Mosfet Spice Subcircuit   Last revision  12/85
*
.SUBCKT ZVN3306 3 4 5
*               D G S
M1 3 2 5 5 N3306M
RG 4 2 270
RL 3 5 1.2E8
D1 5 3 N3306D
.MODEL N3306M NMOS VTO=1.824 RS=1.572 RD=1.436 IS=1E-15 KP=.1233
+CGSO=28E-12 CGDO=3E-12 CBD=35E-12 PB=1
.MODEL N3306D D IS=5E-12 RS=.768
.ENDS ZVN3306
*
*ZETEX  ZVN3306F Mosfet Spice Subcircuit   Last revision  12/85
*
.SUBCKT ZVN3306F 3 4 5
*                D G S
M1 3 2 5 5 N3306M
RG 4 2 270
RL 3 5 1.2E8
D1 5 3 N3306D
.MODEL N3306M NMOS VTO=1.824 RS=1.572 RD=1.436 IS=1E-15 KP=.1233
+CGSO=28E-12 CGDO=3E-12 CBD=35E-12 PB=1
.MODEL N3306D D IS=5E-12 RS=.768
.ENDS ZVN3306F
*
*   ZVN3310 MODEL           Last revision  3/95
*              
.SUBCKT ZVN3310 30 40 50
* NODES: DRAIN GATE SOURCE
M1 30 20 50 50 MOD1   
RG 40 20 356
RL 30 50 1E8
D1 50 30 DIODE1
.MODEL MOD1 NMOS VTO=1.736 RS=2.147 RD=1.682 IS=1E-15 KP=0.157
+CGSO=21.5P CGDO=2.5P CBD=25.5P PB=1
.MODEL DIODE1 D IS=6.12E-13 RS=.629
.ENDS ZVN3310
*
*ZETEX  ZVN4106  Spice Mosfet Subcircuit   Last revision 11/91
*
.SUBCKT ZVN4106 3 4 5
* Nodes         D G S
M1 3 2 5 5 MOD1
RG 4 2 343
RL 3 5 6E6
D1 5 3 DIODE1
.MODEL MOD1 NMOS VTO=2.474 RS=1.68 RD=0.0 IS=1E-15 KP=0.296
+CGSO=23.5P CGDO=4.5P CBD=53.5P PB=1 LAMBDA=267E-6
.MODEL DIODE1 D IS=1.254E-13 N=1.0207 RS=0.222
.ENDS ZVN4106
*
*ZETEX  ZVN4210  Spice Mosfet Subcircuit   Last revision 11/91
*
.SUBCKT ZVN4210 3 4 5
* Nodes         D G S
M1 3 2 5 5 MOD1
RG 4 2 401.5
RL 3 5 1E7
D1 5 3 DIODE1
.MODEL MOD1 NMOS VTO=1.922 RS=0.858 RD=0.2025 IS=1E-15 KP=2.082
+CGSO=61.5P CGDO=3.5P CBD=108P PB=1 LAMBDA=0
.MODEL DIODE1 D IS=1.10461E-12 N=1.0114 RS=0.166
.ENDS ZVN4210
*
*   ZETEX   ZVN4306  Spice model   Last revision 3/92
*
.SUBCKT ZVN4306 30 40 50
*NODES: DRAIN GATE SOURCE
M1 30 20 50 50 MOD1
RG 40 20 108
RL 30 50 6E6
D1 50 30 DIODE1
.MODEL MOD1 NMOS VTO=2.634 RS=0.2762 RD=0.0 IS=1E-15 KP=9.77
+CGSO=224.5E-12 CGDO=10.5E-12 CBD=405E-12 PB=1 LAMBDA=0
.MODEL DIODE1 D IS=6.19E-13 N=1.0043 RS=0.065
.ENDS ZVN4306
*
*   ZETEX   ZVN4310  Spice model   Last revision 6/92
*
.SUBCKT ZVN4310 30 40 50
*NODES: DRAIN GATE SOURCE
M1 30 20 50 50 MOD1
RG 40 20 82
RL 30 50 1E7
D1 50 30 DIODE1
.MODEL MOD1 NMOS VTO=2.555 RS=0.2068 RD=0.1665 IS=1E-15 KP=5.02
+CGSO=200E-12 CGDO=13.5E-12 CBD=288E-12 PB=1 LAMBDA=0
.MODEL DIODE1 D IS=9.759E-13 N=1.02476 RS=0.0844
.ENDS ZVN4310
*
*ZETEX  ZVN4424A Mosfet Spice Subcircuit   Last revision  1/94
*
.SUBCKT ZVN4424A 3 4 5
*                D G S
M1 3 2 5 5 N4424AM
RG 4 2 200
RL 3 5 240E6
D1 5 3 N4424AD
.MODEL N4424AM NMOS VTO=1.25 RS=2.34 RD=1.634 IS=1E-15 KP=5.319
+CGSO=101E-12 CGDO=4E-12 CBD=66.2E-12 PB=1
.MODEL N4424AD D IS=5.516E-13 RS=.2084 N=1.0078
.ENDS ZVN4424A
*
*
*
*                          (C)  1995 ZETEX PLC
*
*   The copyright in these models  and  the designs embodied belong
*   to Zetex PLC ("Zetex").  They  are  supplied  free of charge by
*   Zetex for the purpose of research and design and may be used or
*   copied intact  (including this notice)  for  that purpose only.
*   All other rights are reserved. The models are believed accurate
*   but  no condition  or warranty  as to their  merchantability or
*   fitness for purpose is given and no liability in respect of any
*   use is accepted by Zetex PLC, its distributors or agents.
*
*
*   Zetex  PLC,  Fields  New  Road,  Chadderton, Oldham, Lancashire 
*                OL9 8NP  UK
